US07402581B2
tert-Butyl [(2S)-2-(3,4-dichlorophenyl)-4-oxobutyl]methylcarbamate (see WO 95/05377; 610 mg, 1.8 mmol) was dissolved in 1,2-dichloroethane (20 mL) and to the resultant solution was added 4-azetidin-3-ylthiomorpholine hydrochloride (430 mg, 1.9 mmol) followed by the addition of sodium triacetoxyborohydride (480 mg, 2.2 mmol). The mixture was stirred at room temperature for 5 h and then triethylamine (0.73 mL, 5.2 mmol) was added. The reaction mixture was stirred for 2 h and then partitioned between CH2Cl2 and NaHCO3 aq. The organic layer was washed with water and the combined organic solutions were dried over MgSO4. The solvent was removed by evaporation to yield an oil, which was chromatographed on a reversed phase column using a mixture of acetonitrile and 0.1 M ammonium acetate aq. The appropriate fractions were extracted with ether. The organic solution was dried over MgSO4 and then the solvent was removed by evaporation. There was obtained 266 mg (31%) of tert-butyl [(2S)-2-(3,4-dichlorophenyl)-4-(3-thiomorpholin-4-ylazetidin-1-yl)butyl]methylcarbamate as an oil. 1H NMR (400 MHz, CDCl3): 1.4 (s, 9H), 1.5-3.5 (c m, 23H), 7.0 (dd, 1H), 7.3 (d, 1H), 7.4 (d, 1H); LCMS: m/z 488 (M+1)+.

reactant | tert-Butyl [(2S)-2-(3,4-dichlorophenyl)-4-oxobutyl]methylcarbamate | 1.8 mmol, 610 mg | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(OC(C)(C)C)=O)C)CC=O | C16H21Cl2NO3
reactant | 4-azetidin-3-ylthiomorpholine hydrochloride | 1.9 mmol, 430 mg | Cl.N1CC(C1)N1CCSCC1
reactant | sodium triacetoxyborohydride | 2.2 mmol, 480 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 5.2 mmol, 0.73 mL | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | tert-butyl [(2S)-2-(3,4-dichlorophenyl)-4-(3-thiomorpholin-4-ylazetidin-1-yl)butyl]methylcarbamate | 266 mg, 31% | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(OC(C)(C)C)=O)C)CCN1CC(C1)N1CCSCC1 | C23H35Cl2N3O2S
